US04473579
A solution of 3.89 g. of diphenylamine in 25 ml. of dimethylacetamide is added during one hour to a stirred mixture of 5.19 g. of N-benzyl-N-(n-butyl)carbamyl chloride, 0.685 g. of sodium hydride, and 65 ml. of dimethylacetamide under a nitrogen atmosphere at 45°-50° C. The mixture is stirred for 2 hours at 50° C. and then poured into water. The mixture is extracted with methylene chloride and the extract is evaporated. The residue is purified by chromatography using silica gel as the adsorbant and acetone-hexane as the eluent. After evaporation of the eluent, the residue is evaporatively distilled at 165° C. under reduced pressure (150 microns) to yield 1-benzyl-1-(n-butyl)-3,3-diphenylurea as a viscous, clear, clorless liquid.

reactant | diphenylamine | C1(=CC=CC=C1)NC1=CC=CC=C1 | C12H11N
reactant | dimethylacetamide | CC(=O)N(C)C | C4H9NO
reactant | N-benzyl-N-(n-butyl)carbamyl chloride | C(C1=CC=CC=C1)N(C(=O)Cl)CCCC | C12H16ClNO
reactant | sodium hydride | [H-].[Na+]
solvent | water | O | H2O
product | 1-benzyl-1-(n-butyl)-3,3-diphenylurea | C(C1=CC=CC=C1)N(C(=O)N(C1=CC=CC=C1)C1=CC=CC=C1)CCCC | C24H26N2O
